US09340573B2
To a solution of methyl-((S)-1-{(S)-2-methyl-1-[(S)-2-(naphthalen-2-ylaminomethyl)-2,3-dihydro-pyrrolo[2,3-b]pyridine-1-carbonyl]-propylcarbamoyl}-ethyl)-carbamic acid tert-butyl ester (27 mg, 0.05 mmol) in 1,4-dioxane (0.5 mL) was added 4 M HCl in dioxane (0.5 mL) dropwise at 0° C. The reaction mixture was stirred at rt for 3 h and then the solvent was removed in vacuo to give (S)-2-methylamino-N—{(S)-2-methyl-1-[(S)-2-(naphthalen-2-ylaminomethyl)-2,3-dihydro-pyrrolo[2,3-b]pyridine-1-carbonyl]-propyl}-propionamide hydrochloride (23 mg), m/z=460 (M+H).

reactant | methyl-((S)-1-{(S)-2-methyl-1-[(S)-2-(naphthalen-2-ylaminomethyl)-2,3-dihydro-pyrrolo[2,3-b]pyridine-1-carbonyl]-propylcarbamoyl}-ethyl)-carbamic acid tert-butyl ester | 0.05 mmol, 27 mg | C(C)(C)(C)OC(N([C@@H](C)C(N[C@@H](C(C)C)C(=O)N1[C@@H](CC=2C1=NC=CC2)CNC2=CC1=CC=CC=C1C=C2)=O)C)=O | C32H41N5O4
reactant | HCl | 4 M | Cl | ClH
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (S)-2-methylamino-N—{(S)-2-methyl-1-[(S)-2-(naphthalen-2-ylaminomethyl)-2,3-dihydro-pyrrolo[2,3-b]pyridine-1-carbonyl]-propyl}-propionamide hydrochloride | 23 mg | Cl.CN[C@H](C(=O)N[C@@H](C(C)C)C(=O)N1[C@@H](CC=2C1=NC=CC2)CNC2=CC1=CC=CC=C1C=C2)C | InChI=1S/C27H33N5O2.ClH/c1-17(2)24(31-26(33)18(3)28-4)27(34)32-23(15-21-10-7-13-29-25(21)32)16-30-22-12-11-19-8-5-6-9-20(19)14-22;/h5-14,17-18,23-24,28,30H,15-16H2,1-4H3,(H,31,33);1H/t18-,23-,24-;/m0./s1
